US05859007
B. 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-trifluoromethyl-phenyl)-acetamide
To 60 mL of THF at 0° C. is added dropwise over 20 min simultaneously a solution of 2.0 g (4.68 mmol) of N-Isopropyl-2-(2-phenylamino-phenylamino)-N-(4-trifluoromethyl-phenyl) acetamide, prepared as in Part A, in 30 mL of THF and 590 μL (6.08 mmol, 1.3 equiv) of malonyl dichloride in 30 mL of THF. The resulting solution is stirred at RT for 20 h and the solvent removed in vacuo. Purification of the resulting brown oil by silica gel flash column chromatography using hexane/EtOAc 3/2 as eluent afforded 1.35 g of the title compound as a light tan solid: mp 186°-188° C.; 1H NMR (CDCl3, 400 MHz) δ7.74 (d, 2H, J=8.1), 7.42 (d, 2H, J=8.1), 7.36 (m, 3H), 7.25 (m, 4H), 7.08 (ddd, 1H, J=1.4, 8.4, 8.4), 6.90 (dd, 1H, J=1.2, 8.2), 5.06 (m, 1H), 4.12 (dd, 2H, J=14.4, 95.5), 3.52 (dd, 2H, J=12.0, 34.5), 1.11 (d, 6H, J=6.6); low resolution MS (FAB)m/e 496 (MH+), 293, 265; Anal. (C27H24F3N3O3) Calcd. C, 65.45; H, 4.88; N, 8.48; Found C, 65.16; H, 4.95; N, 8.33.

reactant | N-Isopropyl-2-(2-phenylamino-phenylamino)-N-(4-trifluoromethyl-phenyl) acetamide | 4.68 mmol, 2.0 g | C(C)(C)N(C(CNC1=C(C=CC=C1)NC1=CC=CC=C1)=O)C1=CC=C(C=C1)C(F)(F)F | C24H24F3N3O
reactant | malonyl dichloride | 6.08 mmol, 590 μL, 1.3 equiv | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-trifluoromethyl-phenyl)-acetamide | 1.35 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)C(F)(F)F)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H24F3N3O3
